US06538159B2
A mixture of [3-methoxy-4-(3-phenyl-prop-2-ynyloxy)-phenyl]-acetonitrile (2.0 g), liquid ammonia (5 g) and Raney-nickel (1 g) in methanol (100 ml) is shaken in an autoclave under hydrogen (100 bar) at +70° C. for 2 hours. The reaction mixture is filtered and evaporated. 2-[3-Methoxy-4-(3-phenyl-propoxy)-phenyl]-ethylamine is obtained as an oil.

reactant | [3-methoxy-4-(3-phenyl-prop-2-ynyloxy)-phenyl]-acetonitrile | 2.0 g | COC=1C=C(C=CC1OCC#CC1=CC=CC=C1)CC#N | C18H15NO2
reactant | ammonia | 5 g | N | H3N
solvent | methanol | 100 ml | CO | CH4O
catalyst | Raney-nickel | 1 g | [Ni] | Ni
product | 2-[3-Methoxy-4-(3-phenyl-propoxy)-phenyl]-ethylamine | COC=1C=C(C=CC1OCCCC1=CC=CC=C1)CCN | C18H23NO2
